US09227978B2
di-tert-Butyl 2-carbamoylpiperazine-1,4-dicarboxylate
To a solution of 1,4-di(tert-butoxycarbonyl)piperazine-2-carboxylic acid (8.21 g, 24.85 mmol) was dissolved in THF (50 mL) and Et3N (20 mL) at 0° C., ethyl chloroformate (2.8 g, 26.1 mmol) was added dropwise. After stirring at −5-0° C. for 1 h, NH4OH (20 mL) was added and the resulting solution was stirred at room temperature for 1 h. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with 1N NaOH and brine, dried over Na2SO4 and concentrated in vacuo to give the product (7.5 g, 91.7% yield) as an off-white solid.

reactant | 1,4-di(tert-butoxycarbonyl)piperazine-2-carboxylic acid | 24.85 mmol, 8.21 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)O | C15H26N2O6
reactant | Et3N | 20 mL | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 26.1 mmol, 2.8 g | ClC(=O)OCC | C3H5ClO2
reactant | NH4OH | 20 mL | [NH4+].[OH-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | di-tert-Butyl 2-carbamoylpiperazine-1,4-dicarboxylate | 7.5 g, 91.7% yield | C(N)(=O)C1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C15H27N3O5
